US06174905B1
To a suspension of 1.24 g of sodium hydride (60% oil dispersion; 31 mmol) in 90 mL of THF were added dropwise 3.27 g of 3-pyridinemethanol (30 mmol) in 10 mL of dry THF at room temperature over 5 min. The resulting white suspension was stirred at room temperature for an hour, to which was then added dropwise 6.27 g of tert-butyl 2-bromopropionate (30 mmol) in 10 mL of dry THF at room temperature over 5 min. The mixture was stirred at room temperature for 11.5 hours. After adding water, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried and evaporated. The residue was purified by column chromatography on silica gel (eluent: n-hexane:ethyl acetate=1:1) to give 4.01 g of tert-butyl (pyridin-3-yl)methoxyacetate (Yield: 56.3%) as a dark brown oil.

reactant | sodium hydride | 31 mmol, 1.24 g | [H-].[Na+]
reactant | 3-pyridinemethanol | 30 mmol, 3.27 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | tert-butyl 2-bromopropionate | 30 mmol, 6.27 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
reactant | water | O | H2O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl (pyridin-3-yl)methoxyacetate | 4.01 g, Yield: 56.3% | N1=CC(=CC=C1)COCC(=O)OC(C)(C)C | C12H17NO3
